US06200976B1
a. 5-bromo-3-nitro-pyridine-2-ol-hydrobromide
3.6 ml of bromine are added dropwise to a suspension of 10.0 g (0.071 mol) of 2-hydroxy-3-nitro-pyridine in 25 ml of carbon tetrachloride whilst cooling with ice. The reaction mixture is refluxed for 2 hours. The solvent is distilled off in vacuo, the crystalline product is suction filtered and recrystallised from water.

reactant | bromine | 3.6 ml | BrBr | Br2
reactant | 2-hydroxy-3-nitro-pyridine | 0.071 mol, 10.0 g | OC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O3
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-3-nitro-pyridine-2-ol-hydrobromide | Br.BrC=1C=C(C(=NC1)O)[N+](=O)[O-] | InChI=1S/C5H3BrN2O3.BrH/c6-3-1-4(8(10)11)5(9)7-2-3;/h1-2H,(H,7,9);1H
